US04328361
A mixture of 12 g. (0.09 mole) of p-isopropenylphenol (prepared as described in Preparation 1) and 12 g. (0.118 mole) of acetic anhydride was stirred at ambient temperature (circa 20° C.) while two drops of concentrated sulfuric acid were added. Stirring was continued until the exothermic reaction subsided and the reaction product was then poured into an excess of water. The organic material was extracted with a mixture of ether and n-hexane and the extract was dried over anhydrous sodium sulfate and evaporated to dryness. There was thus obtained 16.5 g. of acetylated product which was found by nuclear magnetic resonance spectral analysis to be a mixture of 20% w/w of p-isopropenyl-phenol acetate and 80% w/w of the dimer diacetate. The product was subjected to pyrolysis by adding 0.1 g. of p-toluenesulfonic acid and heating to a temperature of 200°-240° C. under reduced pressure (circa 18 mm. mercury) to yield a distillate which was found to be 13.44 g. (85% yield) of monomeric p-isopropenylphenol acetate. The latter was mixed with a small amount of chloroform and hydrogen chloride gas was bubbled into the mixture until saturated. There was thus obtained a solution of p-(2-chloroisopropyl)phenol acetate.

reactant | p-isopropenylphenol | 0.09 mole | C(=C)(C)C1=CC=C(C=C1)O | C9H10O
reactant | acetic anhydride | 0.118 mole | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | two drops | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | p-isopropenylphenol acetate | 85% yield | C(C)(=O)OC1=CC=C(C=C1)C(=C)C | C11H12O2
